US07517873B2
To an ice cooled solution of 3.43 g (0.030 mole) of 4-amino-1-methylpiperidine, 4.58 g (0.045 mole) of triethylamine and 75 mL of tetrahydrofuran, was added a solution of 6.44 g (0.0347 mole) of 4-nitrobenzoyl chloride in 25 mL of tetrahydrofuran. The mixture was stirred at room temperature for 6 hours, then diluted with 50 mL of water and 100 mL of saturated sodium bicarbonate. After stirring another 30 minutes, the mixture was extracted twice with 200 mL of ethyl acetate. The ethyl acetate layers were washed with 200 mL of water, 200 mL of brine, combined, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give 4.34 g of N-(1-methyl-piperidin-4-yl)-4-nitro-benzamide as off-white powder.

reactant | 4-amino-1-methylpiperidine | 0.030 mole, 3.43 g | NC1CCN(CC1)C | C6H14N2
reactant | triethylamine | 0.045 mole, 4.58 g | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzoyl chloride | 0.0347 mole, 6.44 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | water | 50 mL | O | H2O
solvent | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
product | N-(1-methyl-piperidin-4-yl)-4-nitro-benzamide | 4.34 g | CN1CCC(CC1)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C13H17N3O3
